US04432979
THE PREPARATION OF 3-BROMO-1-ETHYL-5-(2-PYRAZINYL)-2-PYRIDONE
1.5 g of sodium methoxide is added to a stirred mixture of 3-bromo-5-(2-pyrazinyl)-2(1H)-pyridone (6.3 g) in DMF (200 ml) warmed to a temperature of 80° C. 4 ml of bromoethane are added to the warmed reaction mixture which is stirred for 30 minutes at 80° C. The reaction mixture is cooled to RT, stirred overnight, filtered and the filtrate acidified to pH 5.7 by addition of methanolic HCl. The acidified filtrate is evaporated resulting in a thick red oil. The oil is treated with hot isopropanol and the inorganic salts filtered off. The isopropanol solution is warmed, charcoal added, and filtered while hot. The filtrate is evaporated resulting in a tan solid which is dissolved in warm toluene and chromatographed on a column of silica gel (40 g per g tan solid) dispersed in toluene. The column is eluted increasing concentrations of ethyl acetate in toluene followed by methanol and ethyl acetate. The purified product is recrystallized from decane and toluene. The initial crop of crystals is identified as the O-ethylated product isomer while the addition of toluene caused the crystallization of a second crop of crystals which is identified as the desired N-ethyl pyridone, M.P. 129°-132° C.

reactant | sodium methoxide | 1.5 g | C[O-].[Na+]
reactant | 3-bromo-5-(2-pyrazinyl)-2(1H)-pyridone | 6.3 g | BrC=1C(NC=C(C1)C1=NC=CN=C1)=O | C9H6BrN3O
reactant | bromoethane | 4 ml | BrCC | C2H5Br
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-BROMO-1-ETHYL-5-(2-PYRAZINYL)-2-PYRIDONE | BrC=1C(N(C=C(C1)C1=NC=CN=C1)CC)=O | C11H10BrN3O
